US04654370
By following the procedure of Example 1(a) and 1(b) using 13.05 g. of 1,3-dihydroxyacetone, 23.7 g. of pyridine and 31.1 g. of butyryl chloride, 17.9 g. of 1,3-dibutanoyloxy-2-propanol is obtained. The reaction of 12.2 g. of this material and 9.4 g. of valproyl chloride and 4.98 g. of pyridine as described in Example 1(c) yields an oil which is purified by chromatography as described in Example 3. The pure 1,3-dibutanoyl-2-valproyl-glyceride is eluted from the column with petroleum ether/ether (95:5); it is obtained in a yield of 9.1 g.; Rf 0.61 (petroleum ether/ether 3:1); mass spectrum m/e 316 (M+ -42).

reactant | 1,3-dihydroxyacetone | OCC(=O)CO | C3H6O3
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3-dibutanoyloxy-2-propanol | C(CCC)(=O)OCC(COC(CCC)=O)O | C11H20O5
